US04647406
Preparation of 2-ethyl-2-prenyl-3-hexenol
Into a 2 liter four-neck flask, provided with stirrer, column, dropping funnel, and thermometer, 0.5 moles of aluminum isopropylate and 1 liter of dry isopropanol are first introduced. To the boiling mixture, a solution of 1 mole 2-ethyl-2-prenyl-3-hexenal, dissolved in 200 ml of dry isopropanol were added drop by drop. At all times, the reaction mixture was kept boiling to the extent that the acetone being formed could be withdrawn by the column. When in the distillate acetone could no longer be detected, the isopropanol was distilled off. Finally, the residue was poured into 250 ml of 20% hydrochloric acid, the phases were separate, and the organic phase was dried with calcium chloride. The desired product was then distilled over a Vigreux column.

reactant | aluminum isopropylate | 0.5 moles | CC(C)[O-].CC(C)[O-].CC(C)[O-].[Al+3]
reactant | 2-ethyl-2-prenyl-3-hexenal | 1 mole | C(C)C(C=O)(C=CCC)CC=C(C)C | C13H22O
reactant | acetone | CC(=O)C | C3H6O
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 1 liter | C(C)(C)O | C3H8O
product | 2-ethyl-2-prenyl-3-hexenol | C(C)C(CO)(C=CCC)CC=C(C)C | C13H24O
